US05516788
i) 2,3,6-trimethylanisole
A mixture of 50 g (0.367 mol) of 2,3,6-trimethylphenol, 55 g (0.4 mol) of potassium carbonate and 36 ml (0.38 mol) of dimethylsulphate in 500 ml of acetonitrile was heated under reflux overnight. 35 ml of conc. aqueous ammonia was then added, and the mixture refluxed for 1 hour. After filtration and evaporation, the residue was taken up in ether and washed twice with NaOH-solution and twice with NaHCO3 -solution. Drying (MgSO4) and evaporation gave 50.8 g (92%) of the product.

reactant | 2,3,6-trimethylphenol | 0.367 mol, 50 g | CC1=C(C(=CC=C1C)C)O | C9H12O
reactant | potassium carbonate | 0.4 mol, 55 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulphate | 0.38 mol, 36 ml | COS(=O)(=O)OC | C2H6O4S
reactant | ammonia | 35 ml | N | H3N
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 2,3,6-trimethylanisole | 50.8 g, 92% | CC1=C(C(=CC=C1C)C)OC | C10H14O
